US08110575B2
5-(4-(2-methylindoline-1-carbonyl)pyridin-2-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo-[2,3-b]pyridin]-2′(1′H)-one
150 mg (0.40 mmol) 2-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)isonicotinic acid, 55 μL (0.42 mmol) 2-methylindoline, 0.15 mL (0.87 mmol) DIPEA and 130 mg (0.41 mmol) TBTU in 1.8 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 2-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)isonicotinic acid | 0.40 mmol, 150 mg | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC=2C=C(C(=O)O)C=CN2 | C21H16N4O3
reactant | 2-methylindoline | 0.42 mmol, 55 μL | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | DIPEA | 0.87 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.41 mmol, 130 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 5-(4-(2-methylindoline-1-carbonyl)pyridin-2-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo-[2,3-b]pyridin]-2′(1′H)-one | CC1N(C2=CC=CC=C2C1)C(=O)C1=CC(=NC=C1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C30H25N5O2
